US04206199
(2) Production of Boc-Leu-Nle-Asn-Thr-OBzl
Boc-Nle-Asn-Thr-OBzl (3.50 g) was treated with TFA (30 ml) and the solvent was evaporated. The residue was triturated with ether to give powders, which were dissolved in DMF (30 ml) together with TEA (1.2 ml). To this was added Boc-Leu-ONB which was prepared from Boc-Leu-OH (1.66 g), HONB (1.41 g) and DCC (1.63 g). The mixture was stirred at room temperature for 15 hours and the solvent was evaporated. The residue was triturated with water (50 ml) to give powders, which were collected by filtration and washed with ethyl acetate. Yield 3.60 g (83.8%); m.p. 200°-201° C. [α]D21.5 -22.7° (c=0.8, DMF), Rf1 0.60

reactant | Boc-Nle-Asn-Thr-OBzl | 3.50 g | N([C@@H](CCCC)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H]([C@H](O)C)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C26H40N4O8
reactant | TFA | 30 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | Boc-Leu-OH | 1.66 g | N([C@@H](CC(C)C)C(=O)O)C(=O)OC(C)(C)C | C11H21NO4
reactant | HONB | 1.41 g | C1C2C=CC1C3C2C(=O)N(C3=O)O | C9H9NO3
reactant | DCC | 1.63 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | Boc-Leu-Nle-Asn-Thr-OBzl | N([C@@H](CC(C)C)C(=O)N[C@@H](CCCC)C(=O)N[C@@H](CC(N)=O)C(=O)N[C@@H]([C@H](O)C)C(=O)OCC1=CC=CC=C1)C(=O)OC(C)(C)C | C32H51N5O9
